US04476131
2-(3,5-Dimethoxyphenyl)-1-(Methoxycarbonylmethylene)Cyclohexane
To a suspension of 3.9 g. (0.081 mole) 50% sodium hydride in 500 ml. anhydrous tetrahydrofuran (THF) was added dropwise at room temperature a solution of 16.2 g. (0.089 mole) trimethylphosphonoacetate in 50 ml. THF and the mixture stirred for 15 minutes. A solution of 17.4 g. (0.074 mole) 2-(3,5-dimethoxyphenyl)cyclohexanone in 100 ml. THF was added in portions after which the mixture was heated at 70° C. for three hours and cooled to 0° C. Glacial acetic acid, 5.4 g., was added and the resulting mixture diluted with water and extracted with ethyl acetate. The extracts were dried (Na2SO4) and evaporated to give 2 g. of crude product which was crystallized from isopropyl ether; 20.4 g., M.P. 80°-81° C. 1H--NMR (CDCl3) ppm (delta): 3.60 (s, 3H, COOCH3), 3.80 (s, 6H, OCH3), 5.20 (s, 1H, olefin), 6.34 (s, 3H, aromatic). Mass spectrum, exact mass for C17H24O4 : 292.3783. Found: 292.1658.

reactant | sodium hydride | 0.081 mole | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trimethylphosphonoacetate | 0.089 mole | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 2-(3,5-dimethoxyphenyl)cyclohexanone | 0.074 mole | COC=1C=C(C=C(C1)OC)C1C(CCCC1)=O | C14H18O3
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3,5-Dimethoxyphenyl)-1-(Methoxycarbonylmethylene)Cyclohexane | COC=1C=C(C=C(C1)OC)C1C(CCCC1)=CC(=O)OC | C17H22O4
